US06635657B1
Preparation of N-(5-Chloropyridin-2-yl)-2-[[1-[1-(4-pyridinyl)ethyl]piperidin-4-ylmethyl]amino]benzamide
To a small sample of N-(5-chloropyridin-2-yl)-2-(piperidin-4-ylmethylamino)benzamide (0.03 g, 0.1 mmol) weighed out in a 1 mL sealable vial, excess 4-acetylpyridine was added (100 μL, ca. 1 mmol) followed by sodium cyanoborohydride (360 μL of a 1 M solution in tetrahydrofuran) and methanol-acetic acid (95:5). The vial was capped and placed in a shaker at 50° C. for several days until reasonable conversion by TLC was evident. The reaction mixture was then diluted with methanol, shaken well for several minutes, and allowed to stand for 0.5 h before applying it to a 2 g SCX column. After washing well with methanol, the product was gravity-eluted from the column with 2 M ammonia in methanol. The product fractions were combined and concentrated in vacuo to a residue which was triturated in acetonitrile, giving rise to the title compound as a powdery solid (0.03 g, 74%) in >98% purity by HPLC.

reactant | N-(5-chloropyridin-2-yl)-2-(piperidin-4-ylmethylamino)benzamide | 0.1 mmol, 0.03 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NCC1CCNCC1)=O | C18H21ClN4O
reactant | 4-acetylpyridine | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | methanol acetic acid | CO.C(C)(=O)O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | N-(5-Chloropyridin-2-yl)-2-[[1-[1-(4-pyridinyl)ethyl]piperidin-4-ylmethyl]amino]benzamide | 0.03 g, 74% | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NCC1CCN(CC1)C(C)C1=CC=NC=C1)=O | C25H28ClN5O
